US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-phenyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one, dihydrochloride
Prepared by the method described for Example 1 from 8-phenyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one (5.54 g, 0.02 moles) and 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride (4.48 g, 0.02 moles). Recrystallization from methanol gave the product (920 mg), mp 260°-265° C. (dec).

reactant | 8-phenyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.02 moles, 5.54 g | C1(=CC=CC=C1)C1=CC2=C(C=C1)C1=C(CNCC1)C(O2)=O | C18H15NO2
reactant | 3-(2-chloroethyl)-3-azabicyclo(3.2.2)nonane hydrochloride | 0.02 moles, 4.48 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8-phenyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one, dihydrochloride | 920 mg | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C=C2)C2=CC=CC=C2 | InChI=1S/C28H32N2O2.2ClH/c31-28-26-19-29(14-15-30-17-20-6-7-21(18-30)9-8-20)13-12-24(26)25-11-10-23(16-27(25)32-28)22-4-2-1-3-5-22;;/h1-5,10-11,16,20-21H,6-9,12-15,17-19H2;2*1H
